US04161594
In accordance with Example 5 of U.S. Pat. No. 3,595,862, 50.4 g (0.2 mole) of 5,5-diphenylhydantoin were suspended in a mixture of 50 ml of dioxan and 200 ml of water. To this suspension were added 88 ml of 37% aqueous formaldehyde solution and 10 ml of triethanolamine and the mixture was stirred for 7 hours at 92°-98° C. The resultant clear, colourless solution was cooled to 25° C., adjusted to a pH of 1 and extracted with ether (3 × 100 ml). The ethereal solution was washed with 50 ml of saturated saline solution and dried over anhydrous sodium sulphate. The ether was distilled off under reduced pressure (bath temperature 40° C.) and the 1,3-di-(hydroxymethyl)-5,5-diphenylhydantoin is obtained as an oil in a yield of 63.1 g (99.8% of theory).

reactant | 5,5-diphenylhydantoin | 0.2 mole, 50.4 g | C1(=CC=CC=C1)C1(C(NC(N1)=O)=O)C1=CC=CC=C1 | C15H12N2O2
reactant | formaldehyde | 88 ml | C=O | CH2O
reactant | triethanolamine | 10 ml | N(CCO)(CCO)CCO | C6H15NO3
solvent | dioxan | 50 ml | O1CCOCC1 | C4H8O2
solvent | water | 200 ml | O | H2O
product | 1,3-di-(hydroxymethyl)-5,5-diphenylhydantoin | OCN1C(=O)N(C(=O)C1(C1=CC=CC=C1)C1=CC=CC=C1)CO | C17H16N2O4
